US09056859B2
5-(Piperazin-1-ylmethyl)-5,6,7,8-tetrahydronaphthalene-1-carbonitrile was prepared starting from 5-formyl-5,6,7,8-tetrahydronaphthalene-1-carbonitrile and tert-butyl piperazine-1-carboxylate in two steps in an analogous fashion to that described for the synthesis of 2-methoxy-4-[2-(piperazin-1-yl)ethyl]benzonitrile above.

reactant | 5-formyl-5,6,7,8-tetrahydronaphthalene-1-carbonitrile | C(=O)C1C=2C=CC=C(C2CCC1)C#N | C12H11NO
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-methoxy-4-[2-(piperazin-1-yl)ethyl]benzonitrile | COC1=C(C#N)C=CC(=C1)CCN1CCNCC1 | C14H19N3O
product | 5-(Piperazin-1-ylmethyl)-5,6,7,8-tetrahydronaphthalene-1-carbonitrile | N1(CCNCC1)CC1C=2C=CC=C(C2CCC1)C#N | C16H21N3
